US08937083B2
Preparation of N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-2-(N-methylmethylsulfonamido)-N-(prop-2-yn-1-yl)acetamide (Compound 623)
To a solution of N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-2-(methylamino)-N-(prop-2-yn-1-yl)acetamide (0.100 g, 0.329 mmol) in DCM (0.65 ml) was added methanesulfonyl chloride (0.057 g, 0.494 mmol) followed by diisopropylethylamine (0.11 ml, 0.658 mmol) and the reaction was stirred at room temperature for 24 h. The reaction mixture was poured into a solution of saturated NaHCO3 and subsequently extracted with DCM. The organic layers were combined and concentrated, and the residue was purified using silica gel chromatography (50-100% EtOAc/hexanes) to afford the title compound as a yellow solid (0.091 g, 0.238 mmol, 72%): (IR thin film) 1678 cm−1; 1H NMR (400 MHz, CDCl3) δ 8.97 (d, J=2.6 Hz, 1H), 8.65 (dd, J=4.8, 1.3 Hz, 1H), 8.15 (s, 1H), 8.04 (ddd, J=8.3, 2.7, 1.4 Hz, 1H), 7.48 (dd, J=8.4, 4.7 Hz, 1H), 3.77 (hept, J=6.9 Hz, 2H), 3.05 (s, 2H), 3.01 (s, 3H), 2.87 (s, 3H), 2.31 (t, J=2.5 Hz, 1H); ESIMS m/z 382 ([M+H]+).

reactant | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-2-(methylamino)-N-(prop-2-yn-1-yl)acetamide | 0.329 mmol, 0.100 g | ClC1=NN(C=C1N(C(CNC)=O)CC#C)C=1C=NC=CC1 | C14H14ClN5O
reactant | methanesulfonyl chloride | 0.494 mmol, 0.057 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | 0.658 mmol, 0.11 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 0.65 ml | C(Cl)Cl | CH2Cl2
product | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-2-(N-methylmethylsulfonamido)-N-(prop-2-yn-1-yl)acetamide | 0.238 mmol, 0.091 g, 72% | ClC1=NN(C=C1N(C(CN(S(=O)(=O)C)C)=O)CC#C)C=1C=NC=CC1 | C15H16ClN5O3S
